US04112075
23.8 g of nicotinoyl chloride-hydrochloride are added in portions in the course of 15 minutes to a suspension of 5.0 g of 1,4-anhydro-D-glucitol (Arlitan) in 30 g of triethylamine and 100 ml of methylene chloride, at 40°, whilst stirring and with the exclusion of atmospheric moisture. After the reaction mixture has been allowed to react for a further 30 minutes, it is filtered and the bulk of the methylene chloride is distilled off from the filtrate. The residue which is thus formed from the filtrate is dissolved in methylene chloride and the solution is washed with water. After drying over sodium sulphate, evaporating under a waterpump vacuum and degassing the residue under a high vacuum, pure 2,3,5,6-tetra-O-nicotinoyl-1,4-anhydro-D-glucitol is obtained as a viscous, brownish oil which has an optical rotation [α]D20 = + 16° ± 1° (c = 1.099 in chloroform), IR: carbonyl band at 1,730 cm-1, and a Rf value of 0.26 on silica gel thin layer plates in the system: methylene chloride/ethyl acetate (85:15).

reactant | nicotinoyl chloride-hydrochloride | 23.8 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 1,4-anhydro-D-glucitol | 5.0 g | C1[C@H](O)[C@@H](O)[C@H](O1)[C@H](O)CO | C6H12O5
solvent | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,3,5,6-tetra-O-nicotinoyl-1,4-anhydro-D-glucitol | C(C1=CN=CC=C1)(=O)O[C@H]1CO[C@@H]([C@@H]1OC(C1=CN=CC=C1)=O)[C@H](OC(C1=CN=CC=C1)=O)COC(C1=CN=CC=C1)=O | C30H24N4O9
